US06660739B1
D. 1-(6-Chloronaphthalen-2-ylsulfonyl)piperazine
To a stirring suspension of 1-Boc-4-(6-chloro-naphthalen-2-ylsulfonyl)piperazine (2.8g, 6.8 mmol) in dioxane (50 mL) was added 4 M HCl in dioxane (5 mL, 40 mmol). After stirring overnight at room temperature, the solvent was evaporated in vacuo, and the residue was dissolved in water. The aqueous phase was and made basic with 5 N NaOH and extracted twice with ethyl acetate. The combined extracts were washed with water and brine, then dried over sodium sulfate and evaporated to 2.1 g (100%) solid.

reactant | 1-Boc-4-(6-chloro-naphthalen-2-ylsulfonyl)piperazine | 6.8 mmol, 2.8g | C(=O)(OC(C)(C)C)N1CCN(CC1)S(=O)(=O)C1=CC2=CC=C(C=C2C=C1)Cl | C19H23ClN2O4S
reactant | HCl | 4 M | Cl | ClH
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 40 mmol, 5 mL | O1CCOCC1 | C4H8O2
product | 1-(6-Chloronaphthalen-2-ylsulfonyl)piperazine | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCNCC1 | C14H15ClN2O2S
